US07261952B2
2) Synthesis of 2,4,6-tricyano-1,3,5-trimethylbenzene (TCM)
CuCN (220 g, 243 mmol) and pyridine (146.7 g, 1.85 mol) were added to a high pressure reaction vessel, and well mixed, and then 2,4,6-tribromo-1,3,5-trimethylbenzene(25 g, 75.8 mmol) was added thereto. The reaction mixture was reacted at 205° C. for 2 hours. Cu therein was excluded with excessive methylene diamine, and then filtered by MC. Water in the reaction mixture was eliminated over MgSO4, and then solvent therein was evaporated in vacuum. The residue was absorbed to silica gel column and separated with a tube chromatography (Hx:MC=3:1) to obtain white solid [yield : 6 g (40.59%)].

reactant | CuCN | 243 mmol, 220 g | C(#N)[Cu]
reactant | pyridine | 1.85 mol, 146.7 g | N1=CC=CC=C1 | C5H5N
reactant | 2,4,6-tribromo-1,3,5-trimethylbenzene | 75.8 mmol, 25 g | BrC1=C(C(=C(C(=C1C)Br)C)Br)C | C9H9Br3
reactant | methylene diamine | C(N)N | CH6N2
product | 2,4,6-tricyano-1,3,5-trimethylbenzene | C(#N)C1=C(C(=C(C(=C1C)C#N)C)C#N)C | C12H9N3
